US08802670B2
NMR: (400 Mhz, CDCl3): 1.19-1.24 (6H, m, CH3), 2.61 (2H, t (J 10.72), CH2), 2.80 (3H, s, CH3), 2.88-2.90 (2H, m, CH2), 3.59 (2H, d (J 10.46), CH2), 3.93-4.00 (8H, m, CH2) 4.14 (2H, s, CH2), 7.12 (1H, s, ar), 7.51 (1H, t (J 7.80), ar), 7.60 (1H, d (J 8.29), ar), 8.32 (1H, d (J 6.73), ar), 9.04 (1H, s, ar), 10.10 (1H, b, NH) 6: Reaction between 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde and cis-2,6-dimethyl-piperazine using procedure C yielded 2-chloro-6-((3R,5S)-3,5-dimethyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine. This compound treated with methane sulphonyl chloride using standard conditions to yield 2-chloro-6-((3R,5S)-4-methanesulfonyl-3,5-dimethyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine. This compound was subjected to procedure A to yield the desired final compound which was purified using flash chromatography.

reactant | 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2CCOCC2 | C11H10ClN3O2S
reactant | cis-2,6-dimethyl-piperazine | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
product | 2-chloro-6-((3R,5S)-3,5-dimethyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2C[C@H](N[C@H](C2)C)C)N2CCOCC2 | C17H24ClN5OS
